US04962103
Trans-1-(p-Nitrobenzyloxycarbonyl)-4-hydroxy-L-proline p-methoxybenzyl ester (49 g) was dissolved in 300 ml of dry tetrahydrofuran, and 33 ml of triethylamine, 9.59 g of 4-dimethylaminopyridine and 33.2 g of benzoyl chloride were added thereto, followed by stirring under reflux for 5 hours. The reaction mixture was cooled down to room temperature and distilled to remove the solvent. The residue was diluted with ethyl acetate, washed successively with water, dilute hydrochloric acid, water, a saturated sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and distilled to remove the solvent. Recrystallization of the residue from diethyl ether gave trans-1-(p-nitrobenzyloxycarbonyl)-4-benzoyloxy-L-proline p-methoxybenzyl ester.

reactant | Trans-1-(p-Nitrobenzyloxycarbonyl)-4-hydroxy-L-proline p-methoxybenzyl ester | 49 g | COC1=CC=C(COC([C@H]2N(C[C@@H](C2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C21H22N2O8
reactant | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 33.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 9.59 g | CN(C1=CC=NC=C1)C | C7H10N2
product | trans-1-(p-nitrobenzyloxycarbonyl)-4-benzoyloxy-L-proline p-methoxybenzyl ester | COC1=CC=C(COC([C@H]2N(C[C@@H](C2)OC(C2=CC=CC=C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C28H26N2O9
